US07220744B2
b) 4-(5-Phenylsulfanyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 1.44 mmol 4-(5-bromo-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester in 6 ml tetrahydrofuran at −78° C. was added dropwise 1.44 mmol n-butyllithium solution (1.6 M in hexane) and the mixture was stirred at −78° C. for 10 min. A solution of 1.58 mmol diphenyl disulphide in 1 ml tetrahydrofuran was then added dropwise over 15 min and the reaction mixture was then allowed to warm to room temperature. The reaction mixture was then poured onto saturated brine and the mixture was extracted three times with ethyl acetate/tetrahydrofuran (1:1). The combined organic phases were dried over sodium sulphate and concentrated in vacuo. Chromatography (SiO2, ethyl acetate/heptane) afforded the title compound as a yellow crystalline solid (yield 76%). MS (m/e): 378.3 (M+H+, 100%).

reactant | 4-(5-bromo-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.44 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)Br | C12H18BrN3O2S
reactant | n-butyllithium | 1.44 mmol, 1.6 M | C(CCC)[Li]
reactant | diphenyl disulphide | 1.58 mmol | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-(5-Phenylsulfanyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | yield 76% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)SC1=CC=CC=C1 | C18H23N3O2S2
